US08604023B2
7-Chloro-1-(4-methoxybenzyl)-3-(naphthalen-2-ylmethyl)-5-(1,4-dioxa-8-azaspiro[4.5]decan-8-yl)-1H-benzo[e][1,4]diazepin-2(3H)-one (0.14 g, 0.24 mmol) was dissolved in 1,4-dioxane (4 mL), and concentrated aqueous hydrochloric acid (4 mL) was added. The reaction mixture was stirred at 60° C. for 5 hours, then the temperature increased to 80° C. for 2 hours. The solution was cooled, diluted with ethyl acetate, washed with saturated sodium bicarbonate solution, brine, dried with sodium sulfate, decanted and concentrated in the presence of silica. Chromatography provided 7-chloro-3-(naphthalen-2-ylmethyl)-5-(4-oxopiperidin-1-yl)-1H-benzo[e][1,4]diazepin-2(3H)-one (22 mg, 22% yield). ESI m/z measured 432.1487 [M+H]+. calculated 432.1479.

reactant | 7-Chloro-1-(4-methoxybenzyl)-3-(naphthalen-2-ylmethyl)-5-(1,4-dioxa-8-azaspiro[4.5]decan-8-yl)-1H-benzo[e][1,4]diazepin-2(3H)-one | 0.24 mmol, 0.14 g | ClC1=CC2=C(N(C(C(N=C2N2CCC3(OCCO3)CC2)CC2=CC3=CC=CC=C3C=C2)=O)CC2=CC=C(C=C2)OC)C=C1 | C35H34ClN3O4
reactant | hydrochloric acid | 4 mL | Cl | ClH
solvent | 1,4-dioxane | 4 mL | O1CCOCC1 | C4H8O2
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 7-chloro-3-(naphthalen-2-ylmethyl)-5-(4-oxopiperidin-1-yl)-1H-benzo[e][1,4]diazepin-2(3H)-one | 22 mg, 22% yield | ClC1=CC2=C(NC(C(N=C2N2CCC(CC2)=O)CC2=CC3=CC=CC=C3C=C2)=O)C=C1 | C25H22ClN3O2
